US06806277B2
1 cm3 of 5N aqueous sodium hydroxide solution is added with stirring, at a temperature in the region of 20° C., to a solution of 0.05 g of methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in 2 cm3 of dioxane and 2 cm3 of methanol, and then the combined mixture is brought to reflux and refluxed for 20 hours. The mixture is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained is dissolved in 6 cm3 of distilled water The aqueous phase is washed with 2 cm3 of methylene chloride and then evaporated to dryness. The residue is taken up in 2 cm3 of isopropanol and the insoluble material is washed with 2 cm3 of isopropanol and then dried to give 0.05 g of (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid, sodium salt.

reactant | sodium hydroxide | 5N, 1 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 0.05 g | S1C(=CC=C1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)N)C(=O)OC | C26H33N3O3S2
solvent | dioxane | 2 cm3 | O1CCOCC1 | C4H8O2
solvent | methanol | 2 cm3 | CO | CH4O
solvent | water | 6 cm3 | O | H2O
product | (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid | 0.05 g | S1C(=CC=C1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)N)C(=O)O | C25H31N3O3S2
